US07829585B2
(6-Benzyloxy-benzofuran-2-yl)-methanol
To a tetrahydrofuran (370 mL) solution of 6-benzyloxy-benzofuran-2-carboxylic acid ethyl ester (18.4 g, 62.1 mmol) described in Production Example 1-2-1 was added lithium aluminum hydride (7.07 g, 186 mmol) at 0° C., which was stirred at room temperature for 4 hours. To the reaction mixture were added water (7.07 mL), 5 N aqueous sodium hydroxide solution (7.07 mL) and water (21.2 mL) at 0° C. After filtering the mixture through Celite, the filtrate was concentrated under a reduced pressure. The residue was purified by silica gel column chromatography (heptane:ethyl acetate=1:1) to obtain the title compound (14.2 g, 90%) as a white solid.

reactant | tetrahydrofuran | 370 mL | O1CCCC1 | C4H8O
reactant | 6-benzyloxy-benzofuran-2-carboxylic acid ethyl ester | 62.1 mmol, 18.4 g | C(C)OC(=O)C=1OC2=C(C1)C=CC(=C2)OCC2=CC=CC=C2 | C18H16O4
reactant | lithium aluminum hydride | 186 mmol, 7.07 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydroxide | 5 N, 7.07 mL | [OH-].[Na+]
solvent | water | 21.2 mL | O | H2O
solvent | water | 7.07 mL | O | H2O
product | (6-Benzyloxy-benzofuran-2-yl)-methanol | 14.2 g, 90% | C(C1=CC=CC=C1)OC1=CC2=C(C=C(O2)CO)C=C1 | C16H14O3
